US05703075
Preparation of 8-Benzyloxy-2-(4-morpholinylmethylene)-4H-1-benzopyran-4-one Cpd 275
8-Hydroxy-2-(4-morpholinylmethylene)-4H-1-benzopyran-4-one (261 mg, 1 mmole) is suspended in 7 ml acetonitrile in a 25 ml one neck round bottom flask under nitrogen. The suspension is treated successively with potassium carbonate (829 mg, 6 mmole) and benzyl bromide (150ul, 1.3 mmole) and the reaction mixture is warmed to 70° C. for 1 h. The mixture is cooled to room temperature and the acetonitrile is removed in vacuo. The residue is washed with 1×25 ml dichloromethane and the insoluble material is removed by filtration. The filtrate is concentrated in vacuo to a yellow oil. The oil is chromatographed over 15 g silica gel (230-400 mesh)eluting with 3% methanol/dichloromethane and collecting 6 ml fractions. Fractions 12-27 are combined and concentrated to afford a colorless oil which is crystallized from diethyl ether to provide 246 mg (70%) of the title compound as a white solid, mp. 107°-107.5° C.

reactant | 8-Hydroxy-2-(4-morpholinylmethylene)-4H-1-benzopyran-4-one | 1 mmole, 261 mg | OC1=CC=CC=2C(CC(OC21)=CN2CCOCC2)=O | C14H15NO4
reactant | potassium carbonate | 6 mmole, 829 mg | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 1.3 mmole, 150ul | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetonitrile | 7 ml | C(C)#N | C2H3N
product | 8-Benzyloxy-2-(4-morpholinylmethylene)-4H-1-benzopyran-4-one | 246 mg, 70% | C(C1=CC=CC=C1)OC1=CC=CC=2C(CC(OC21)=CN2CCOCC2)=O | C21H21NO4
